US07741327B2
A mixture of 4-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-phenol (0.696 g, 3.34 mol), potassium carbonate (0.463 g, 0.003 mol), ethyl-2-butynoate (2.25 g, 0.020 mol) and a catalytic amount of 4-dimethylaminopyridine in tetrahydrofuran (15 mL) was placed in a sealed tube and heated at 80° C. for 6 h. The reaction mixture was cooled, filtered and the isolated solids washed with tetrahydrofuran. The filtrate was concentrated in vacuo and the residue was purified by flash column chromatography (silica gel, 0% to 30% ethyl acetate/hexanes) which afforded (E)-3-[4-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-phenoxy]-but-2-enoic acid ethyl ester (0.440 g, 41%) as a colorless oil.

reactant | 4-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-phenol | 3.34 mol, 0.696 g | CC1(OC[C@@H](O1)CC1=CC=C(C=C1)O)C | C12H16O3
reactant | potassium carbonate | 0.003 mol, 0.463 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl-2-butynoate | 0.020 mol, 2.25 g | C(C)OC(C#CC)=O | C6H8O2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (E)-3-[4-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-phenoxy]-but-2-enoic acid ethyl ester | 0.440 g, 41% | C(C)OC(\C=C(/C)\OC1=CC=C(C=C1)C[C@@H]1OC(OC1)(C)C)=O | C18H24O5
